US05283251
To a solution of methyl 4-(2-methylindol-3-yl)-4-oxobutyrate (2.0 g) in tetrahydrofuran (50 ml) was added a 1M solution of boran in tetrahydrofuran (16.5 ml) at 0° C. After stirred at 0° C. for 30 minutes, the mixture was poured into a mixture of ethyl acetate and brine. The organic layer was separated, washed with water and brine, and dried over magnesium sulfate. After evaporation of solvent, the residue was purified by column chromatography on silica gel (50 g) eluting with chloroform to give methyl 4-(2-methylindol-3-yl)butyrate (1.67 g) as a yellow oil.

reactant | methyl 4-(2-methylindol-3-yl)-4-oxobutyrate | 2.0 g | CC=1NC2=CC=CC=C2C1C(CCC(=O)OC)=O | C14H15NO3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 16.5 ml | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | methyl 4-(2-methylindol-3-yl)butyrate | 1.67 g | CC=1NC2=CC=CC=C2C1CCCC(=O)OC | C14H17NO2
